US09238647B2
Step E: (1R)-1-[2-(Trifluoromethyl)pyrimidin-5-yl]ethanamine
To a solution of 2-methyl-N-{(1R)-1-[2-(trifluoromethyl)pyrimidin-5-yl]ethyl}propane-2-sulfinamide (7.23 g, 24.5 mmol) in methanol (100 mL) was added HCl (4.0 M in dioxane; 18.5 mL, 74.0 mmol). The mixture was stirred at ambient temperature. After 1 h, the mixture was concentrated to give the title compound (4.6 g).

reactant | 2-methyl-N-{(1R)-1-[2-(trifluoromethyl)pyrimidin-5-yl]ethyl}propane-2-sulfinamide | 24.5 mmol, 7.23 g | CC(C)(C)S(=O)N[C@H](C)C=1C=NC(=NC1)C(F)(F)F | C11H16F3N3OS
reactant | HCl | 74.0 mmol, 4.0 M, 18.5 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | (1R)-1-[2-(Trifluoromethyl)pyrimidin-5-yl]ethanamine | 4.6 g | FC(C1=NC=C(C=N1)[C@@H](C)N)(F)F | C7H8F3N3
